US09126998B2
rac-Benzyl (2-amino-3-isopropoxypropyl)carbamate
2.3 g of rac-benzyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-isopropoxypropyl]carbamate (5.6 mmol, 1 equivalent) were dissolved in 30 ml of ethanol, 7.3 ml of 40% strength aqueous methylamine solution (84.4 mmol, 15 equivalent) were added and the mixture was stirred at 60° C. overnight. The reaction mixture was concentrated and the residue was then chromatographed on silica gel (Biotage Isolera; mobile phase: dichloromethane/methanol gradient). This gave 730 mg (49% of theory) of the title compound.

reactant | rac-benzyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-isopropoxypropyl]carbamate | 5.6 mmol, 2.3 g, 1 equivalent | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OCC1=CC=CC=C1)=O)COC(C)C | C22H24N2O5
reactant | methylamine | 84.4 mmol, 15 equivalent | CN | CH5N
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | rac-Benzyl (2-amino-3-isopropoxypropyl)carbamate | NC(CNC(OCC1=CC=CC=C1)=O)COC(C)C | C14H22N2O3
